US09085555B2
C. 3-Fluoro-2-trifluoromethyl-pyridine-4-carbaldehyde oxime
To a solution of 3-fluoro-2-trifluoromethyl-pyridine-4-carbaldehyde (0.495 g, 2.05 mmol) in MeOH (17.6 mL) and water (2.9 mL) were added hydroxylamine hydrochloride (0.214 g, 3.08 mmol) and ammonium acetate (0.474 g, 6.15 mmol), and the resulting mixture was stirred at RT overnight. Volatile were removed in vacuo, and the residue was suspended in CH2Cl2/MeOH 9:1. The precipitate was filtered off, washed with CH2Cl2 and dried to afford the title compound as a white solid. MS (LC/MS): 209.0 [M+H]+; tR (HPLC conditions c): 4.28 min.

reactant | 3-fluoro-2-trifluoromethyl-pyridine-4-carbaldehyde | 2.05 mmol, 0.495 g | FC=1C(=NC=CC1C=O)C(F)(F)F | C7H3F4NO
reactant | hydroxylamine hydrochloride | 3.08 mmol, 0.214 g | Cl.NO
reactant | ammonium acetate | 6.15 mmol, 0.474 g | C(C)(=O)[O-].[NH4+]
solvent | MeOH | 17.6 mL | CO | CH4O
solvent | water | 2.9 mL | O | H2O
product | 3-Fluoro-2-trifluoromethyl-pyridine-4-carbaldehyde oxime | FC=1C(=NC=CC1C=NO)C(F)(F)F | C7H4F4N2O
